US09340556B2
To a solution of (Z)-2-(2-aminothiazol-4-yl)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)acetic acid (120 g, 364 mmol) in Dichloromethane (DCM) (840 mL) in an ice bath was added TEA (76 mL, 546 mmol), a solution of Boc-anhydride (110 mL, 474 mmol), and DMAP (8.90 g, 72.9 mmol). The mixture was stirred at r.t. over night. The solvent was then removed under vacuum. Water (1 L) and diisopropylether (700 mL) were added to the mixture. The aqueous layer was separated, washed with toluene and was adjusted to pH ˜2 with 2N HCl. The aqueous layer was extracted with toluene. The organic layer was concentrated. IPE was added and the insoluble material was tritulated. The material was collected by filtration and dried to afford (Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetic acid (69 g, 145 mmol, 39.7% yield) as a white powder. LCMS: (M+H)+: 430.0

reactant | (Z)-2-(2-aminothiazol-4-yl)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)acetic acid | 364 mmol, 120 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C(=O)OC(C)(C)C)(C)C | C13H19N3O5S
solvent | Dichloromethane | 840 mL | ClCCl | CH2Cl2
catalyst | DMAP | 72.9 mmol, 8.90 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetic acid | 145 mmol, 69 g, 39.7% yield | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)O)\C=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C18H27N3O7S
